US05691362
Treat a solution of 4-(3,4-dichlorophenyl)-dihydro-5-(hydroxymethyl) 2(3H)-furanone (3.3 g, 12.6 mmol, 3:2 ratio of stereoisomers by NMR) in dry DMF(10 mL) with 3,5-bistrifluoromethylbenzyl bromide (5.9 mL, 32.2 mmol) followed by Ag2O (5.8 g, 25.3 mmol); wrap the vessel in foil and stir for 2.5 d. Apply the crude material to a pad of silica gel (10 cm×4 cm) packed with hexane:EtOAc (1:1), washing the pad with the same solvent until no further product is eluted as shown by TLC; concentrate the resulting filtrate in vacuo to give the crude product as a solid (10 g). Dissolve the crude was dissolved in hexane:EtOAc (4:1) and purify by silica gel chromatography (column: 7.5×19; solvent: hexane:EtOAc, 4:1) to give 3.33 g (6.8 mmol, 54%) of isomer (trans)-[[[(3,5-bis(trifluoromethyl)phenyl]methoxy]methyl]-4-(3,4-dichlorophenyl)-dihydro-2(3H)-furanone and 1.08 g (2.2 mmol, 17%) of the corresponding cis isomer for a total yield of 71%.

reactant | 4-(3,4-dichlorophenyl)-dihydro-5-(hydroxymethyl) 2(3H)-furanone | 12.6 mmol, 3.3 g | ClC=1C=C(C=CC1Cl)C1CC(OC1CO)=O | C11H10Cl2O3
reactant | 3,5-bistrifluoromethylbenzyl bromide | 32.2 mmol, 5.9 mL | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | [[(3,5-bis(trifluoromethyl)phenyl]methoxy]methyl]-4-(3,4-dichlorophenyl)-dihydro-2(3H)-furanone | yield of 71% | FC(C=1C=C(C=C(C1)C(F)(F)F)COCC1C(OCC1C1=CC(=C(C=C1)Cl)Cl)=O)(F)F | C20H14Cl2F6O3
